US03979449
18.3 g of β-methyl-L-aspartate hydrochloride are dissolved in 80 ml of a solution containing 20 g of ammonia. After reaction at ambient temperature for 3 hours, during which the reaction mixture is slowly stirred, the excess ammonia is removed under a partial vacuum of 12 mm Hg. The pH-value is then reduced to pH 5.4 by the addition of 10 g of 32% hydrochloric acid. The L-asparagine is precipitated in monohydrate form. 200 g of methanol are then added to the mixture, followed by cooling to 0°C. The crystals are collected by filtration, washed with 20ml of a saturated (approximately 2%) aqueous solution of L-asparagine and then dried at 70°C. L-asparagine monohydrate is thus obtained in a yield of 12 g (80%). The product has the following characteristics:

reactant | β-methyl-L-aspartate hydrochloride | 18.3 g | Cl.CC([C@H](N)C(=O)O)C(=O)O
reactant | ammonia | 20 g | N | H3N
product | L-asparagine monohydrate | O.N[C@@H](CC(N)=O)C(=O)O | InChI=1S/C4H8N2O3.H2O/c5-2(4(8)9)1-3(6)7;/h2H,1,5H2,(H2,6,7)(H,8,9);1H2/t2-;/m0./s1
